US09290517B2
Step B: [(3R,3aR,6R,6aS)-3-[1-allyl-6-chloro-5-(5-methylsulfonyl-4,6-dihydropyrrolo-[3,4-c]pyrazol-2-yl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane
Triethylamine (91 uL, 0.653 mmol) was added to a ice cold mixture of [(3R,3aR,6R,6aS)-3-[1-allyl-6-chloro-5-(5,6-dihydro-4H-pyrrolo[3,4-c]pyrazol-2-yl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro-[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane 2,2,2-trifluoroacetic acid (86.4 mg, 0.128 mmol) and methane sulfonyl chloride (16 uL, 0.205 mmol) in DCM (1.0 ml). After 20 minutes, the reaction mixture was diluted with EtOAc (30 ml), water (20 ml) and 2N HCl (2 mL). The EtOAc layer was washed with brine (10 mL), dried over MgSO4, filtered, and evaporated under reduced pressure to give an oil. The oil was purified on preparative silica plates (2×1000 u developed with 1:1 EtOAc/hexanes) to give the title compound. LC-MS: calculated for C27H37ClN6O6SSi 636.20 observed m/e: 637.13 (M+H)+ (Rt 1.35/2 min)

reactant | Triethylamine | 0.653 mmol, 91 uL | C(C)N(CC)CC | C6H15N
reactant | [(3R,3aR,6R,6aS)-3-[1-allyl-6-chloro-5-(5,6-dihydro-4H-pyrrolo[3,4-c]pyrazol-2-yl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro-[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane 2,2,2-trifluoroacetic acid | 0.128 mmol, 86.4 mg | FC(C(=O)O)(F)F.C(C=C)N1C(=NC2=NC(=C(C=C21)Cl)N2N=C1C(=C2)CNC1)O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O[Si](C)(C)C(C)(C)C
reactant | methane sulfonyl chloride | 0.205 mmol, 16 uL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 1.0 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | HCl | 2N, 2 mL | Cl | ClH
product | [(3R,3aR,6R,6aS)-3-[1-allyl-6-chloro-5-(5-methylsulfonyl-4,6-dihydropyrrolo-[3,4-c]pyrazol-2-yl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane | C(C=C)N1C(=NC2=NC(=C(C=C21)Cl)N2N=C1C(=C2)CN(C1)S(=O)(=O)C)O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O[Si](C)(C)C(C)(C)C | C27H37ClN6O6SSi
